US06670360B2
(c) Methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate
Phosphorous oxychloride (2.15 g, 14 mmol) was added to a solution of dimethylformamide (1.10 g, 15 mmol) in toluene (2 ml) and the mixture was stirred at room temperature for 30 minutes. To this mixture was added a solution of methyl 4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate (2.21 g, 10 mmol) in toluene (6 ml) and the mixture was then heated at 80° C. for 10 hours. After this time, the reaction mixture was poured into water and neutralized with saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated and was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and then concentrated in vacuo. The residue was chromatographed on a column using ethyl acetate/hexane=10/1 as the eluant to afford the title compound (1.95 g, 78.2%) as a pale yellow oil.

reactant | Phosphorous oxychloride | 14 mmol, 2.15 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 15 mmol, 1.10 g | CN(C=O)C | C3H7NO
reactant | methyl 4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate | 10 mmol, 2.21 g | CC=1C=C(N(C1C)C[C@@H]1[C@H](C1)C)C(=O)OC | C13H19NO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate | 1.95 g, 78.2% | C(=O)C1=C(N(C(=C1C)C)C[C@@H]1[C@H](C1)C)C(=O)OC | C14H19NO3
